US04395406
1-(2-Hydroxy-3,3,3-trichloropropyl)-5-bromopyrimid-2-one
A stirred mixture of 5-bromopyrimid-2-one (0.009 mol), 1,2-epoxy-3,3,3-trichloropropane (0.009 mol) and K2CO3 (33 mg) in dimethylformamide (40 ml ) was heated at 80° C. for 4 h. The reaction mixture was then evaporated to dryness at reduced pressure (1 mm Hg). The crystalline residue was triturated with a little ether and dissolved in ethyl acetate. The filtered ethyl acetate solution was concentrated to about 50 ml and left in the cold when the product crystallized out in 52% yield. m.p. 210°-212° C. (ethyl acetate).

reactant | 5-bromopyrimid-2-one | 0.009 mol | BrC=1C=NC(NC1)=O | C4H3BrN2O
reactant | 1,2-epoxy-3,3,3-trichloropropane | 0.009 mol | O1CC1C(Cl)(Cl)Cl | C3H3Cl3O
reactant | K2CO3 | 33 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-(2-Hydroxy-3,3,3-trichloropropyl)-5-bromopyrimid-2-one | 52% yield | OC(CN1C(N=CC(=C1)Br)=O)C(Cl)(Cl)Cl | C7H6BrCl3N2O2
